US09353096B2
In a 500 mL round-bottomed flask, 4-benzyl-6-(3-methoxyphenyl)morpholin-3-one (2.3 g, 7.74 mmol) was combined with THF (75 ml) to give a light yellow solution. The reaction was cooled to 0° C. LiAlH4 (9.67 ml of 2M solution in THF, 19.3 mmol) was added by dropwise addition. The resulting reaction mixture was allowed to warm to room temperature and then stirred at this temperature overnight. Reaction was complete as determined by LCMS. The crude reaction mixture was cooled to 0° C. and quenched carefully by sequential addition of H2O (0.75 mL), 2M NaOH (1.5 mL) and then H2O (1.5 mL). Additional THF was added during the addition of NaOH because mixture got too thick for stirring. The mixture was stirred for 1 h and filtered through Celite. The filtercake was washed several times with ethyl acetate. The combined filtrate and washes were concentrated in vacuo. The residue was purified by flash chromatography (silica gel, 80 g, 1.5% to 2% MeOH in dichloromethane) to yield 4-benzyl-2-(3-methoxy-phenyl)-morpholine (1.32 g, 60%) as an oil. (M+H)+=284 m/e. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 2.14 (dd, J=11.37, 10.36 Hz, 1H) 2.31 (td, J=11.43, 3.41 Hz, 1H) 2.77 (dd, J=11.37, 1.77 Hz, 1H) 2.94 (dt, J=11.62, 2.02 Hz, 1H) 3.57 (s, 2H) 3.83 (s, 3H) 3.84-3.92 (m, 1H) 3.98-4.09 (m, 1H) 4.58 (dd, J=10.11, 2.27 Hz, 1H) 6.84 (ddd, J=8.21, 2.53, 1.14 Hz, 1H) 6.91-7.00 (m, 2H) 7.21-7.42 (m, 6H).

reactant | 4-benzyl-6-(3-methoxyphenyl)morpholin-3-one | 7.74 mmol, 2.3 g | C(C1=CC=CC=C1)N1C(COC(C1)C1=CC(=CC=C1)OC)=O | C18H19NO3
reactant | LiAlH4 | 19.3 mmol, 2M, 9.67 ml | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 75 ml | C1CCOC1 | C4H8O
product | 4-benzyl-2-(3-methoxy-phenyl)-morpholine | 1.32 g, 60% | C(C1=CC=CC=C1)N1CC(OCC1)C1=CC(=CC=C1)OC | C18H21NO2
